US06689922B1
(E)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyloct-6-en-3-ol
In a manner similar to Example 53(e), by reacting 131 mg (0.29 mmol) of dimethyl 4-[3-((E)-5-ethyl-5-hydroxy-1-methylhept-1-enyl)phenoxymethyl]phthalate with 25 mg (1.15 mmol) of lithium borohydride, a colourless oil is obtained (m=89 mg; Y=78%).

reactant | dimethyl 4-[3-((E)-5-ethyl-5-hydroxy-1-methylhept-1-enyl)phenoxymethyl]phthalate | 0.29 mmol, 131 mg | C(C)C(CC/C=C(\C)/C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C27H34O6
reactant | lithium borohydride | 1.15 mmol, 25 mg | [BH4-].[Li+]
product | (E)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyloct-6-en-3-ol | OCC=1C=C(COC=2C=C(C=CC2)/C(=C/CCC(CC)(O)CC)/C)C=CC1CO | C25H34O4
